datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cn1c[n+:21]([H:20])cn1.OCC[NH2+]CCC[NH2:10]>>Cn1c[n:21]cn1.OCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@]314.c1ccc2c([O-:10])nsc2c1>>COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N:21](C)CC[C@]314.c1ccc2c([O:10][H:20])nsc2c1 10=20;20,21=21",
"O=C1C[C@H]2OCC(S(=O)(=O)[O-])=C3C[N+:21]4([H:20])CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64.c1ccc(-c2c[n-:10]cn2)cc1>>O=C1C[C@H]2OCC(S(=O)(=O)[O-])=C3C[N:21]4CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64.c1ccc(-c2c[n:10]([H:20])cn2)cc1 10=20;20,21=21",
"CC(c1ccccc1O)=[N+:21](c1ccccc1O)[H:20].COc1ccc(S(=O)(=O)[NH-:10])cc1>>CC(c1ccccc1O)=[N:21]c1ccccc1O.COc1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"Brc1ccc([O-:10])c(Br)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1ccc([O:10][H:20])c(Br)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1[C@H]([NH3+])[C@H]1[NH2+:21][H:20].CC[NH+](CC)Cc1c(Cl)cccc1[O-:10]>>CC1[C@H]([NH3+])[C@H]1[NH2:21].CC[NH+](CC)Cc1c(Cl)cccc1[O:10][H:20] 10=20;20,21=21",
"C[N:10](C)CCC#N.c1ccc(C[NH+:21](C23OC4C5C6CC(C7C6C4C72)C53)[H:20])cc1>>C[N+:10](C)(CCC#N)[H:20].c1ccc(C[NH:21]C23OC4C5C6CC(C7C6C4C72)C53)cc1 10=20;20,21=21",
"CCCCn1cc[n:10]c1.CCc1cc(C(C)C)c([O:21][H:20])cc1C>>CCCCn1cc[n+:10]([H:20])c1.CCc1cc(C(C)C)c([O-:21])cc1C 10=20;20,21=21",
"CC(C)C(Br)C(=O)[O:21][H:20].CCN1C=CC=C([O-:10])C1=O>>CC(C)C(Br)C(=O)[O-:21].CCN1C=CC=C([O:10][H:20])C1=O 10=20;20,21=21",
"CC(O)CC(=O)[O-:10].c1cc([OH+:21][H:20])c2cn[nH]c2c1>>CC(O)CC(=O)[O:10][H:20].c1cc([OH:21])c2cn[nH]c2c1 10=20;20,21=21",
"CN(C)C=[O:10].Cc1cc(C)c(C)c(C(=O)[O:21][H:20])c1C>>CN(C)C=[O+:10][H:20].Cc1cc(C)c(C)c(C(=O)[O-:21])c1C 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCc1ccc(O)cc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCc1ccc(O)cc1)[H:20] 10=20;20,21=21",
"Cc1ccc(-c2n[n:10]c(-c3ccccc3)o2)cc1.Cc1nnc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])s1>>Cc1ccc(-c2n[n+:10]([H:20])c(-c3ccccc3)o2)cc1.Cc1nnc([N-:21]S(=O)(=O)c2ccc(O)cc2)s1 10=20;20,21=21",
"C[n+]1ccc(N)[n:10]c1[O-].Nc1cccc([NH2+:21][H:20])c1>>C[n+]1ccc(N)[n+:10]([H:20])c1[O-].Nc1cccc([NH2:21])c1 10=20;20,21=21",
"Nc1ccccc1[O-:10].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)NCC(=O)[O:21][H:20]>>Nc1ccccc1[O:10][H:20].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)NCC(=O)[O-:21] 10=20;20,21=21",
"C1CCC(=[NH:10])C1.COc1ccc(CC(C)[NH2+:21][H:20])cc1>>C1CCC(=[NH+:10][H:20])C1.COc1ccc(CC(C)[NH2:21])cc1 10=20;20,21=21",
"CC(C)SC(c1ccccc1)=[NH:10].CN(C)C=[N+:21](c1ccc([N+](=O)[O-])cc1)[H:20]>>CC(C)SC(c1ccccc1)=[NH+:10][H:20].CN(C)C=[N:21]c1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"CC1=CC=C([CH:21](C(=O)C2=C[N+](C)=CC=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>CC1=CC=C([CH-:21]C(=O)C2=C[N+](C)=CC=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CCN(CC)S(=O)(=O)c1ccsc1C(=O)[O-:10].CNc1cccc[n+:21]1[H:20]>>CCN(CC)S(=O)(=O)c1ccsc1C(=O)[O:10][H:20].CNc1cccc[n:21]1 10=20;20,21=21",
"C/C(Nc1ccccc1)=[N:10]/c1ccccc1.CCCn1cc[n+:21]([H:20])c1C>>C/C(Nc1ccccc1)=[N+:10](/c1ccccc1)[H:20].CCCn1cc[n:21]c1C 10=20;20,21=21",
"c1cn[n-:10]c1.c1csc(C2CCC[NH+:21]2[H:20])c1>>c1cn[n:10]([H:20])c1.c1csc(C2CCC[NH:21]2)c1 10=20;20,21=21",
"CN1CC[NH:10]CC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CN1CC[NH+:10]([H:20])CC1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)(C)c1ccc(O)c(C[N:10](C)C)c1.Cc1ccc(C(=O)N[O:21][H:20])cc1>>CC(C)(C)c1ccc(O)c(C[N+:10](C)(C)[H:20])c1.Cc1ccc(C(=O)N[O-:21])cc1 10=20;20,21=21",
"CCCCc1cccn[n+:21]1[H:20].CCCn1c[n:10]cn1>>CCCCc1cccn[n:21]1.CCCn1c[n+:10]([H:20])cn1 10=20;20,21=21",
"C1CC2CCC[N+:21]2([H:20])C1.CCc1cc(C)cc([O-:10])c1>>C1CC2CCC[N:21]2C1.CCc1cc(C)cc([O:10][H:20])c1 10=20;20,21=21",
"CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S-:10].[O-]c1ccc([O:21][H:20])cc1Br>>CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S:10][H:20].[O-]c1ccc([O-:21])cc1Br 10=20;20,21=21",
"Cc1ccc(CO[NH2+:21][H:20])cc1.O=C(c1cccc[nH+]1)[O-:10]>>Cc1ccc(CO[NH2:21])cc1.O=C(c1cccc[nH+]1)[O:10][H:20] 10=20;20,21=21",
"CCNc1nnn[n:21]1[H:20].Cc1cc(N)nc(C)[n:10]1>>CCNc1nnn[n-:21]1.Cc1cc(N)nc(C)[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cccc(/C=N/[O-:10])n1.O=C(Nc1ccc[n+:21]([H:20])c1)c1ccccc1>>Cc1cccc(/C=N/[O:10][H:20])n1.O=C(Nc1ccc[n:21]c1)c1ccccc1 10=20;20,21=21",
"CN(C)/C=[N:10]\c1ccc([N+](=O)[O-])cc1.Cc1cc(O)n(-c2nc([O:21][H:20])cc(C)[nH+]2)n1>>CN(C)/C=[N+:10](\c1ccc([N+](=O)[O-])cc1)[H:20].Cc1cc(O)n(-c2nc([O-:21])cc(C)[nH+]2)n1 10=20;20,21=21",
"N#Cc1ccc(-c2nnn[n:21]2[H:20])cc1.[NH3+]CCCCC[NH2:10]>>N#Cc1ccc(-c2nnn[n-:21]2)cc1.[NH3+]CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc([NH2:10])cc1.O=Cc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>CC(C)(C)c1ccc([NH2+:10][H:20])cc1.O=Cc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
"CC[NH:10]CC[Se-].NC1=[NH+][C@H](C(=O)[O:21][H:20])[C@@H]([C@H](O)C[NH3+])N1>>CC[NH+:10](CC[Se-])[H:20].NC1=[NH+][C@H](C(=O)[O-:21])[C@@H]([C@H](O)C[NH3+])N1 10=20;20,21=21",
